US06287794B1
2-(S)-[2-(S)-Allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride
To 2-(S)allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionic acid hydrochloride (3.48 g, 10.6 mmol) and 2-(S)-amino-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride (2.7 g, 10.6 mmol) in 20 ml of DMF were added at −15° C. TOTU (3.83 g, 11.67 mmol) and N-ethylmorpholine (2.7 ml, 21.2 mmol). The mixture was stirred for 1 hour and then allowed to warm to room temperature. After evaporation, ethyl acetate was added to the residue and the organic layer was extracted with aqueous sodium hydrogen carbonate solution, potassium hydrogen sulfate solution, and water. The organic layer was evaporated. Yield: 2.8 g (50%). MS: m/z=491.3 (M+H)+.

reactant | 2-(S)allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionic acid hydrochloride | 10.6 mmol, 3.48 g | Cl.C(C=C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C(N)=N
reactant | 2-(S)-amino-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride | 10.6 mmol, 2.7 g | Cl.COC([C@H](CCC(=O)OC(C)(C)C)N)=O
reactant | TOTU | 11.67 mmol, 3.83 g | [B-](F)(F)(F)F.CCOC(=O)C(=NOC(=[N+](C)C)N(C)C)C#N
reactant | N-ethylmorpholine | 21.2 mmol, 2.7 ml | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(S)-[2-(S)-Allyloxycarbonylamino-3-(4-carbamimidoyl-phenyl)-propionylamino]-pentanedioic acid 5-tert-butyl ester 1-methyl ester hydrochloride | Cl.COC([C@H](CCC(=O)OC(C)(C)C)NC([C@H](CC1=CC=C(C=C1)C(N)=N)NC(=O)OCC=C)=O)=O | InChI=1S/C24H34N4O7.ClH/c1-6-13-34-23(32)28-18(14-15-7-9-16(10-8-15)20(25)26)21(30)27-17(22(31)33-5)11-12-19(29)35-24(2,3)4;/h6-10,17-18H,1,11-14H2,2-5H3,(H3,25,26)(H,27,30)(H,28,32);1H/t17-,18-;/m0./s1
